US04895840
N-[2-[(2-Furanylmethyl)sulfonyl]ethyl]-2-propanamine
A solution of 2-chloroethyl-2-furanylmethyl sulfone in isopropylamine is stirred at room temperature for about 72 hr. The isopropylamine is removed by evaporation and the residue is dissolved with agitation in a mixture of methylene chloride and dilute sodium hydroxide. The methylene chloride layer is extracted with dilute sodium hydroxide and dried over magnesium sulfate. The solvent is removed by evaporation to give the free base of the title compound, which is converted to the hydrochloride salt and is then recrystallized from methanol-diethyl ether.

reactant | 2-chloroethyl-2-furanylmethyl sulfone | ClCCC(C=1OC=CC1)S(=O)(=O)C(CCCl)C=1OC=CC1 | C14H16Cl2O4S
reactant | isopropylamine | C(C)(C)N | C3H9N
product | N-[2-[(2-Furanylmethyl)sulfonyl]ethyl]-2-propanamine | O1C(=CC=C1)CS(=O)(=O)CCNC(C)C | C10H17NO3S
